US04839355
To a suspension of 2.78 g ethyl (S)-10-(2,6-dimethyl-4-pyridinyl)-8,9-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate in 67 ml tetrahydrofuran cooled in an ice-bath was added 0.79 ml benzyl mercaptan, followed by 0.34 g sodium hydride (60% in oil, washed with hexane before use) portionwise, and the mixture was stirred for one hour. An additional 0.079 ml benzyl mercaptan was added and stirring continued at room temperature for 3 hours. The reaction mixture was diluted with saturated sodium acetate solution and extracted with ethyl acetate. The extract was washed with water, dried (sodium sulfate) and concentrated. The residue was crystallized from isopropyl acetate to give 1.98 g ethyl (S)-8-(benzylthio)-10-(2,6-dimethyl-4-pyridinyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate, yellow solid, m.p. 175°-178° C.

reactant | ethyl (S)-10-(2,6-dimethyl-4-pyridinyl)-8,9-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate | 2.78 g | CC1=NC(=CC(=C1)C=1C(=C(C2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)OCC)F)F)C | C22H20F2N2O4
reactant | benzyl mercaptan | 0.79 ml | C(C1=CC=CC=C1)S | C7H8S
reactant | sodium hydride | 0.34 g | [H-].[Na+]
reactant | benzyl mercaptan | 0.079 ml | C(C1=CC=CC=C1)S | C7H8S
solvent | tetrahydrofuran | 67 ml | O1CCCC1 | C4H8O
solvent | sodium acetate | C(C)(=O)[O-].[Na+]
product | ethyl (S)-8-(benzylthio)-10-(2,6-dimethyl-4-pyridinyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate | 1.98 g | C(C1=CC=CC=C1)SC1=C(C(=C2C=3N([C@H](CO2)C)C=C(C(C13)=O)C(=O)OCC)C1=CC(=NC(=C1)C)C)F | C29H27FN2O4S
